US06353006B1
4-Cyano-2-methylaniline was synthesized as previously described (J. Med. Chem. (1991), 34, 3295): To a solution of 3-methyl-4-nitrobenzonitrile (2.0 g, 12.34 mmol) in acetic acid (20 L) was added dropwise a solution of SnCl2 (9.6 g, 49.38 mmol) in conc. HCl (20 mL). After stirring for 3 h, the mixture was added carefully to a saturated NH4OH solution (120 mL) at 0° C. The resulting mixture was extracted with EtOAc (4×30 mL). The combined organic layers were sequentially washed with H2O (30 mL) and a saturated NaCl solution (30 mL), dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (10% EtOAc/hex) to give 4-cyano-2-methylaniline as a white solid (1.48 g, 92%): TLC (30% EtOAc in hexane) Rf0.23. This material was used without further purification.

reactant | 3-methyl-4-nitrobenzonitrile | 12.34 mmol, 2.0 g | CC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O2
reactant | SnCl2 | 49.38 mmol, 9.6 g | Cl[Sn]Cl
reactant | NH4OH | 120 mL | [NH4+].[OH-]
solvent | acetic acid | 20 L | C(C)(=O)O | C2H4O2
solvent | HCl | 20 mL | Cl | ClH
product | 4-cyano-2-methylaniline | 1.48 g, 92% | C(#N)C1=CC(=C(N)C=C1)C | C8H8N2
